US06015825
(2R,3S)-2-(2,4-Difluorophenyl)-3-(4-[3-methylpyrazol-4-yl]phenyl)-1-(1,2,4-triazol-1-yl)butan-2-ol
A solution of potassium hydroxide (0.26 g, 4.6 mmol) in water (2.8 ml) was added to a solution of (2R,3S)-2-(2,4-difluorophenyl)-3-(4-[3-methyl-5-trimethylsilylpyrazol-4-yl]phenyl)-1-(1,2,4-triazol-1-yl)butan-2-ol (0.22 g, 0.45 mmol) in ethanol (12 ml) and the mixture was heated under reflux for 4 hours. The cooled mixture was evaporated under reduced pressure and the residue partitioned between ethyl acetate (20 ml) and water (25 ml). The aqueous phase was further extracted with ethyl acetate (2×20 ml) and the combined organic layers were washed with brine (20 ml), dried(Na2SO4) and evaporated under reduced pressure.

reactant | potassium hydroxide | 4.6 mmol, 0.26 g | [OH-].[K+]
reactant | (2R,3S)-2-(2,4-difluorophenyl)-3-(4-[3-methyl-5-trimethylsilylpyrazol-4-yl]phenyl)-1-(1,2,4-triazol-1-yl)butan-2-ol | 0.45 mmol, 0.22 g | FC1=C(C=CC(=C1)F)[C@@](CN1N=CN=C1)([C@@H](C)C1=CC=C(C=C1)C=1C(=NNC1[Si](C)(C)C)C)O | C25H29F2N5OSi
solvent | water | 2.8 ml | O | H2O
solvent | ethanol | 12 ml | C(C)O | C2H6O
product | (2R,3S)-2-(2,4-Difluorophenyl)-3-(4-[3-methylpyrazol-4-yl]phenyl)-1-(1,2,4-triazol-1-yl)butan-2-ol | FC1=C(C=CC(=C1)F)[C@@](CN1N=CN=C1)([C@@H](C)C1=CC=C(C=C1)C=1C(=NNC1)C)O | C22H21F2N5O
